US04331670
Preparation of N-(2-chloro-5-trifluoromethyl-6-pyridyl)-2,4-dinitro-6-trifluoromethylaniline
In 20 ml. of dimethylformamide, 1.8 g. of 2-chloro-6-amino-5-trifluoromethylpyridine was dissolved and 1.0 g. of powdery potassium hydroxide was gradually added with stirring. After the addition, a solution of 2.7 g. of 2,4-dinitro-6-trifluoromethylchlorobenzene in 10 ml. of dimethylformamide was added dropwise at room temperature and the reaction was continued for about 3 hours. The reaction mixture was acidified with conc. HCl and was poured into water. The precipitate was filtered and recrystallized from methanol to obtain 2.9 g. of the object compound having the melting point of 129° to 131° C.

reactant | 2-chloro-6-amino-5-trifluoromethylpyridine | ClC1=NC(=C(C=C1)C(F)(F)F)N | C6H4ClF3N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2,4-dinitro-6-trifluoromethylchlorobenzene | [N+](=O)([O-])C1=C(C(=CC(=C1)[N+](=O)[O-])C(F)(F)F)Cl | C7H2ClF3N2O4
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2-chloro-5-trifluoromethyl-6-pyridyl)-2,4-dinitro-6-trifluoromethylaniline | ClC1=NC(=C(C=C1)C(F)(F)F)NC1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C13H5ClF6N4O4
